US06184242B2
Sodium azide (210 mg, 1.15 eq) was added to a solution of 4-(4-bromomethylbenzyl)-nitrobenzene (901 mg) in N,N-dimethylformamide (10 mL). The reaction mixture was stirred at room temperature for 2 hours, poured into water, and extracted with diethyl ether (3×). The organic phase was washed with water (3×), dried (MgSO4), and evaporated to dryness. Chromatography on silica gel, eluting with hexane/ethyl acetate, gave 4-(4-azidomethylbenzyl)-nitrobenzene (492 mg, 62%) as a yellow oil.

reactant | Sodium azide | 210 mg, 1.15 eq | [N-]=[N+]=[N-].[Na+]
reactant | 4-(4-bromomethylbenzyl)-nitrobenzene | 901 mg | BrCC1=CC=C(CC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C14H12BrNO2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 4-(4-azidomethylbenzyl)-nitrobenzene | 492 mg, 62% | N(=[N+]=[N-])CC1=CC=C(CC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C14H12N4O2
